US05270313
A mixture of 2.8 g of diethyl (2,6-dimethoxybenzylidene)malonate, 0.6 g of palladium-carbon, 50 ml of methanol and 50 ml of glacial acetic acid was stirred at 25° C. overnight. The solution was filtered and concentrated, and the residue was taken up in ethyl acetate and extracted with 20% NaHCO3 and some ice. Thereafter, the mixture was extracted with 1N, HCl, back-washed with saturated NaCl solution, the organic phase was dried and evaporated under reduced pressure. The crude product was distilled in a high vacuum at 170° C./0.6 mbar. 2.1 g of diethyl (2,6-dimethoxybenzyl)malonate were obtained.

reactant | diethyl (2,6-dimethoxybenzylidene)malonate | 2.8 g | COC1=C(C=C(C(=O)OCC)C(=O)OCC)C(=CC=C1)OC | C16H20O6
reactant | methanol | 50 ml | CO | CH4O
catalyst | palladium-carbon | 0.6 g | [C].[Pd]
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | diethyl (2,6-dimethoxybenzyl)malonate | 2.1 g | COC1=C(CC(C(=O)OCC)C(=O)OCC)C(=CC=C1)OC | C16H22O6
